US07183276B2
A mixture of 3-[2-amino-4-(4-chlorophenyl)-5-thiazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide (500 mg), pyridine-2-carboxylic acid (145 mg), 1-hydroxybenzotriazole (180 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (225 mg) and N,N-dimethylformamide (10 ml) was stirred at room temperature for 24 hrs. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated to give 3-{4-(4-chlorophenyl)-2-[(2-pyridinylcarbonyl)amino)-5-thiazolyl}-N-[4-(diethylphosphonomethyl)phenyl]propionamide was obtained as crystals (560 mg). Recrystallization from ethyl acetate gave colorless prism crystals (350 mg, yield: 58%). melting point: 184–185° C.

reactant | 3-[2-amino-4-(4-chlorophenyl)-5-thiazolyl]-N-[4-(diethylphosphonomethyl)phenyl]propionamide | 500 mg | NC=1SC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC | C23H27ClN3O4PS
reactant | pyridine-2-carboxylic acid | 145 mg | N1=C(C=CC=C1)C(=O)O | C6H5NO2
reactant | 1-hydroxybenzotriazole | 180 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 225 mg | Cl.C(C)N=C=NCCCN(C)C
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-{4-(4-chlorophenyl)-2-[(2-pyridinylcarbonyl)amino)-5-thiazolyl}-N-[4-(diethylphosphonomethyl)phenyl]propionamide | ClC1=CC=C(C=C1)C=1N=C(SC1CCC(=O)NC1=CC=C(C=C1)CP(=O)(OCC)OCC)NC(=O)C1=NC=CC=C1 | C29H30ClN4O5PS
